US04345934
(A) 3-(4-carbomethoxyphenylhydrazono)-4-oxo-6-methylpyr-2-one
To a mixture of 3.78 g (0.025 mol) 4-carbomethoxy aniline and 10 ml of 12 N hydrochloric acid in 15 ml of water, cooled to 5° C., there is added dropwise a solution of 1.9 g (0.0275 mol) sodium nitrite in 5 ml of water. The solution formed is added to an ice cooled solution of 3.15 g (0.025 mol) 4-hydroxy-6-methyl pyr-2-one and 11 g (0.1025 mol) sodium carbonate in 65 ml of water. The suspension formed is stirred at 5° C. for 1 hr and at room temperature for 3 hrs. The suspension is vacuum filtered and the filter cake is air dried to afford 6.8 g (94.4% yield) of product, mp 230-240 decomp.

reactant | 4-carbomethoxy aniline | 0.025 mol, 3.78 g | C(=O)(OC)C1=CC=C(N)C=C1 | C8H9NO2
reactant | hydrochloric acid | 12 N, 10 ml | Cl | ClH
reactant | sodium nitrite | 0.0275 mol, 1.9 g | N(=O)[O-].[Na+]
reactant | 4-hydroxy-6-methyl pyr-2-one | 0.025 mol, 3.15 g | OC1=CC(OC(=C1)C)=O | C6H6O3
reactant | sodium carbonate | 0.1025 mol, 11 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 15 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 65 ml | O | H2O
product | 3-(4-carbomethoxyphenylhydrazono)-4-oxo-6-methylpyr-2-one | 6.8 g, 94.4% yield | C(=O)(OC)C1=CC=C(C=C1)NN=C1C(OC(=CC1=O)C)=O | C14H12N2O5
